US06469004B1
Step e: Preparation of methyl 4,5-diamino-3-fluoro-2-(2-methyl-phenylamino)benzoate
To a mixture comprised of methyl 4-amino-3-fluoro-2-(2-methyl-phenylamino)-5-nitrobenzoate (2.52 g, 0.00789 mol), tetrahydrofuran (50 ml), methanol (50 ml) and washed Raney nickel (0.5 g) was initially applied 48.6 psi of hydrogen gas at 30.2° C. in a shaker for 4 hours 48 minutes. The mixture was filtered and the filtrate concentrated in vacuo to afford 2.20 g of a salmon-colored amorphous solid; 96% yield; 1H-NMR (400 MHz; DMSO) δ7.84 (s, 1H), 7.04 (d, 1H, J=7.1 Hz), 6.98 (d, 1H, J=1.2 Hz), 6.95-6.91 (m, 1H), 6.68-6.64 (m, 1H), 6.40-6.36 (m, 1H), 5.39 (s, 2H), 4.73 (s, 2H), 3.66 (s, 3H), 2.21 (s, 3H); 19F-NMR (376 MHz; DMSO) δ−139.66 (s).

reactant | methyl 4-amino-3-fluoro-2-(2-methyl-phenylamino)-5-nitrobenzoate | 0.00789 mol, 2.52 g | NC1=C(C(=C(C(=O)OC)C=C1[N+](=O)[O-])NC1=C(C=CC=C1)C)F | C15H14FN3O4
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | methanol | 50 ml | CO | CH4O
product | methyl 4,5-diamino-3-fluoro-2-(2-methyl-phenylamino)benzoate | 2.20 g, 96% yield | NC1=C(C(=C(C(=O)OC)C=C1N)NC1=C(C=CC=C1)C)F | C15H16FN3O2
